US04229464
7.8 g of the thus obtained 4-hydroxy-2-ethoxycarbonyl-6-methylindole are dissolved in 100 ml epichlorohydrine and the solution is heated subsequent to the addition of 5 to 6 drops of piperidine, to boiling. After about 3 to 4 hours, the solution is evaporated in vacuum and the residue is recrystallized from isopropanol. There is obtained 6.4 g (~64% of theory) 4-(2,3-epoxypropoxy)-2-ethoxycarbonyl-6-methyl indole; m.p. 173°-175° C.

reactant | 4-hydroxy-2-ethoxycarbonyl-6-methylindole | OC1=C2C=C(NC2=CC(=C1)C)C(=O)OCC | C12H13NO3
reactant | epichlorohydrine | 100 ml | C(Cl)C1CO1 | C3H5ClO
catalyst | piperidine | 5 to 6 drops | N1CCCCC1 | C5H11N
product | 4-(2,3-epoxypropoxy)-2-ethoxycarbonyl-6-methyl indole | 6.4 g, ~64% | O1C(COC2=C3C=C(NC3=CC(=C2)C)C(=O)OCC)C1 | C15H17NO4
